US06051599
a) 3-Bromo-4-butylthiophene
To a stirred solution of 3,4-dibromothiophene (4.60 g, 20.90 mmol) in dry Et2O (50 mL) at -78° C. was dropwise added n-BuLi (2.5 M, 16.72 mL, 41.80 mmol) under Ar. After stirring for 15 min, a solution of freshly distilled di-n-butyl sulfate in dry Et2O (10 mL) was dropwise added through an addition funnel. The mixture was allowed to warm to room temperature and stirred overnight. 30 mL of 12 M NH4OH was added to the mixture. After stirring for 1 h, the mixture was partitioned between H2O and Et2O. The organic layer was separated and washed with H2O, brine and dried (MgSO4). Removal of the solvent under reduced pressure afforded the title compound as an oil (2.50 g, 60%).

reactant | 3,4-dibromothiophene | 20.90 mmol, 4.60 g | BrC1=CSC=C1Br | C4H2Br2S
reactant | n-BuLi | 41.80 mmol, 2.5 M, 16.72 mL | [Li]CCCC
reactant | di-n-butyl sulfate | S(=O)(=O)(OCCCC)OCCCC | C8H18O4S
reactant | NH4OH | 12 M, 30 mL | [NH4+].[OH-]
solvent | Et2O | 50 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 3-Bromo-4-butylthiophene | 2.50 g, 60% | BrC1=CSC=C1CCCC | C8H11BrS
